US08071592B2
(b) Ethyl 3-{4-hydroxy-2-[(E)-2-phenylethenyl]-5-pyrimidinyl}propanoate
Diethyl α-formylglutarate sodium salt (1 g, 4.2 mmol) and (2E)-3-phenyl-2-propenimidamide (0.61 g, 4.2 mmol), prepared in Example 126 (g), were combined in EtOH (20 mL) and MeOH (10 mL) and heated at reflux for 12 h. The solvent was removed and the resulting solid triturated with ether and filtered to give the desired product as a yellow solid (0.75 g, 56%). The mother liquor contained additional product which was not isolated. LCMS (ES+) m/z 299 (MH+).

reactant | Diethyl α-formylglutarate sodium salt | 4.2 mmol, 1 g | [Na].C(=O)C(C(=O)OCC)CCC(=O)OCC
reactant | (2E)-3-phenyl-2-propenimidamide | 4.2 mmol, 0.61 g | C1(=CC=CC=C1)/C=C/C(N)=N | C9H10N2
reactant | MeOH | 10 mL | CO | CH4O
solvent | EtOH | 20 mL | CCO | C2H6O
product | Ethyl 3-{4-hydroxy-2-[(E)-2-phenylethenyl]-5-pyrimidinyl}propanoate | 0.75 g, 56% | OC1=NC(=NC=C1CCC(=O)OCC)\C=C\C1=CC=CC=C1 | C17H18N2O3
